US08703810B2
Step 3: 1-(Chloromethyl)-4-methoxy-2-methylbenzene
To a solution of (4-methoxy-2-methylphenyl)methanol (8.2 g, 54.0 mmol) and triethylamine (9.1 mL, 65.0 mmol) in toluene (100 mL) at 0° C., methanesulfonyl chloride (5.1 mL, 65.0 mmol) was added via syringe over 20 min. The ice water bath was removed, and the reaction was allowed to stir at room temperature for 30 min, heated at 80° C. for 3 days, and then concentrated. The reaction was diluted with DCM, washed with H2O (3×100 mL) and brine, dried over Na2SO4, and concentrated under reduced pressure to 1-(chloromethyl)-4-methoxy-2-methylbenzene (8.1 g) as a dark brown oil. 1H NMR (300 MHz, CDCl3): δ 7.25 (d, 1H), 6.75 (m, 2H), 4.62 (s, 2H), 3.82 (s, 3H), 2.43 (s, 3H).

reactant | (4-methoxy-2-methylphenyl)methanol | 54.0 mmol, 8.2 g | COC1=CC(=C(C=C1)CO)C | C9H12O2
reactant | triethylamine | 65.0 mmol, 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 65.0 mmol, 5.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(Chloromethyl)-4-methoxy-2-methylbenzene | ClCC1=C(C=C(C=C1)OC)C | C9H11ClO
